US04599336
Sodium hydride (13.3 g., 0.32 mol, 57% oil dispersion) was washed with pentane to remove the oil and 26.1 g. (0.275 mol) of 3-hydroxypyridine in 300 ml. of anhydrous DMF was added with cooling in a cold water bath. The mixture was then stirred and heated at 60° for 1 hour. After cooling to 25°, 40.7 g. (0.275 mol) of 4-bromobutyronitrile in 40 ml. of anhydrous DMF was added dropwise over 1 hour with cooling to keep the reaction temperature below 30°. The reaction mixture was then stirred at 25° for 17 hours and the solvent was removed in vacuo. The residue was treated with 100 ml. of water and the product was extracted with CH2Cl2. After washing the extract with 1N NaOH and then with H2O, it was dried (MgSO4) and concentrated in vacuo to an oil which was distilled to yield 25.1 g., b.p. 133°-135°/0.4 mm, (56% yield), of 4-(3-pyridinyloxy)butyronitrile.

reactant | Sodium hydride | 0.32 mol, 13.3 g | [H-].[Na+]
reactant | 3-hydroxypyridine | 0.275 mol | OC=1C=NC=CC1 | C5H5NO
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 4-bromobutyronitrile | 0.275 mol | BrCCCC#N | C4H6BrN
solvent | pentane | CCCCC | C5H12
product | 4-(3-pyridinyloxy)butyronitrile | 56% yield | N1=CC(=CC=C1)OCCCC#N | C9H10N2O
